US05869501
7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile obtained in Reference Example 2 (150 mg) was dissolved in 2 ml of dichloromethane, 35 mg of ethyl isocyanate was added, and the mixture was stirred at room temperature for 15 hours. Then, 117 mg of ethyl isocyanate was added, the mixture was stirred at room temperature for 6 hours, and then the reaction solution was evaporated. The resulting residue was purified by silica gel column chromatography using hexane:ethyl acetate (65:35) as the eluent to give 154 mg of 1-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-1-[(7-cyano-2-naphthyl)methyl]-3-ethylurea.

reactant | 7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(NCC2=CC=C3C=CC(=CC3=C2)C#N)C=C1 | C28H31N3O3
reactant | ethyl isocyanate | 35 mg | C(C)N=C=O | C3H5NO
reactant | ethyl isocyanate | 117 mg | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-1-[(7-cyano-2-naphthyl)methyl]-3-ethylurea | 154 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(=O)NCC)CC1=CC2=CC(=CC=C2C=C1)C#N | C31H36N4O4
